US08106090B2
[(1R,2S)-1-(2,5-Difluoro-benzyl)-3-([2S]-2-tert-butylcarbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-(2,5-difluoro-phenyl)-ethyl]carbamic acid tert-butylester (0.213 g, 0.71 mmol) and (S)-proline tert-butyl amide (0.133 g, 0.78 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-(2,5-difluoro-phenyl)-ethyl]carbamic acid tert-butylester | 0.71 mmol, 0.213 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC(=C1)F)F)[C@H]1OC1)=O | C15H19F2NO3
reactant | (S)-proline tert-butyl amide | 0.78 mmol, 0.133 g | C(C)(C)(C)NC([C@H]1NCCC1)=O | C9H18N2O
product | [(1R,2S)-1-(2,5-Difluoro-benzyl)-3-([2S]-2-tert-butylcarbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1[C@@H](CCC1)C(NC(C)(C)C)=O)O)CC1=C(C=CC(=C1)F)F)=O | C24H37F2N3O4
